US04728663
6-Bromo-N-[5-(1H-imidazol-1-yl)pentyl]benz[cd]indol-2-amine
A mixture of 5.3 g of 6-bromo-benz[cd]indole-2-thiol, 3.1 g of 5-(1H-imidazol-1-yl)pentanamine, 100 ml of ethanol and 6.3 g of mercuric acetate was reacted as described in Example 1, giving 1.5 g of the desired product, mp 138°-140° C.

reactant | 6-bromo-benz[cd]indole-2-thiol | 5.3 g | BrC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C11H6BrNS
reactant | 5-(1H-imidazol-1-yl)pentanamine | 3.1 g | N1(C=NC=C1)CCCCCN | C8H15N3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Bromo-N-[5-(1H-imidazol-1-yl)pentyl]benz[cd]indol-2-amine | 1.5 g | BrC=1C=2C3=C(C(=NC3=CC1)NCCCCCN1C=NC=C1)C=CC2 | C19H19BrN4
